US04507498
A mixture of 4.0 g of 4-(4-acetyl-3-hydroxy-2-propylphenoxy)butanoic acid ethyl ester, 19.9 g of triethylene glycol dimesylate and 3.6 g of anhydrous potassium carbonate in 80 ml of anhydrous acetone and 40 ml of anhydrous dimethylformamide was stirred at reflux for 23 hours. The reaction mixture was filtered and the filtrate was concentrated in vacuo to an oil which was purified by high pressure liquid chromatography using 30% ethyl acetate-toluene to give 3.0 g (45% yield) of 4-[4-acetyl-3-[2-[2-[2-[(methylsulfonyl)oxy]ethoxy]ethoxy]ethoxy]-2-propylphenoxy]butanoic acid ethyl ester as an oil.

reactant | 4-(4-acetyl-3-hydroxy-2-propylphenoxy)butanoic acid ethyl ester | 4.0 g | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C17H24O5
reactant | triethylene glycol dimesylate | 19.9 g | S(C)(=O)(=O)OCCOCCOCCOS(C)(=O)=O | C8H18O8S2
reactant | potassium carbonate | 3.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 80 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-[4-acetyl-3-[2-[2-[2-[(methylsulfonyl)oxy]ethoxy]ethoxy]ethoxy]-2-propylphenoxy]butanoic acid ethyl ester | 3.0 g, 45% yield | C(C)OC(CCCOC1=C(C(=C(C=C1)C(C)=O)OCCOCCOCCOS(=O)(=O)C)CCC)=O | C24H38O10S
